US05504089
1,1,1-Trifluoro-2-(6-phenylsulfonylquinazolin-4-one-2-yl)-propan-2-ol
2-Acetoxy-N-(2-carboxy-4-phenylsulfonylphenyl)-3,3,3-trifluoro-2-methylpropionamide (100 mg) and formamide (2 mL) were mixed and heated at reflux for 1 hour. The reaction mixture was then cooled, poured into water and extracted with ethyl acetate. The ethyl acetate was washed (water, brine) dried (Na2SO4) and evaporated. The crude solid was treated with charcoal in ethyl acetate, and then crystallized from warm ethyl acetate by addition of hexanes to the cloud point, to give the title compound (69 mg) as white needles; mp 202°-204° C.; NMR: 1.73 (s,3), 7.62-7.73 (m,4), 7.86 (d,1), 8.01 (d,2), 8.27 (d,1), 8.59 (s,1); MS: m/z=399(M+1). Analysis for C17H13F3N2O4S.0.1 C4H8O2 : Calculated: C, 51.33; H, 3.42; N, 6.88; Found: C, 51.70; H, 3.58; N, 6.98.

reactant | 2-Acetoxy-N-(2-carboxy-4-phenylsulfonylphenyl)-3,3,3-trifluoro-2-methylpropionamide | 100 mg | C(C)(=O)OC(C(=O)NC1=C(C=C(C=C1)S(=O)(=O)C1=CC=CC=C1)C(=O)O)(C(F)(F)F)C | C19H16F3NO7S
reactant | formamide | 2 mL | C(=O)N | CH3NO
solvent | water | O | H2O
product | 1,1,1-Trifluoro-2-(6-phenylsulfonylquinazolin-4-one-2-yl)-propan-2-ol | 69 mg | FC(C(C)(O)C1=NC2=CC=C(C=C2C(N1)=O)S(=O)(=O)C1=CC=CC=C1)(F)F | C17H13F3N2O4S
